US04760064
1-(4-Hydroxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihyrocarbostyril (9 g) was suspended in DMF (90 ml). To the suspension were added potassium carbonate (2.82 g) and benzyl monochloroacetate (3.81 g) and the mixture was stirred at room temperature over night. After completion of reaction, the reaciton mixture was poured into water and extracted with dichloromethane. The extract was washed successively with water and saturated saline solution, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica-gel column chromatography [eluent:dichloromethane:methanol=100:0 to 100:5] to give 1-(4-benzyloxycarbonylmethoxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydroxycarbostyril (4.0 g).

reactant | 1-(4-Hydroxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihyrocarbostyril | 9 g | OC1=CC=C(C(=O)N2C(=O)CCC3=CC(=CC=C23)N2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)C=C1 | C29H29N3O6
reactant | potassium carbonate | 2.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl monochloroacetate | 3.81 g | ClCC(=O)OCC1=CC=CC=C1 | C9H9ClO2
reactant | water | O | H2O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 1-(4-benzyloxycarbonylmethoxybenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydroxycarbostyril | 4.0 g | C(C1=CC=CC=C1)OC(=O)COC1=CC=C(C(=O)N2C(=O)C(=C(C3=CC(=CC=C23)N2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)O)O)C=C1 | C38H35N3O10
